US09371280B2
To a suspension of chiral 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (US20100152190A1, 197 mg, 0.320 mmol,) in methylene chloride (8 mL) was added triethylamine (97.0 mg, 0.14 mL, 0.959 mmol) followed by bis(2-oxo-3-oxazolidinyl)phosphinic chloride (Aldrich, 114 mg, 0.447 mmol). The mixture was stirred at room temperature for 10 min before ethane-1,2-diol (Aldrich, 122 mg, 0.11 mL, 1.97 mmol) was added. This reaction mixture was stirred at room temperature overnight. It was then diluted with methylene chloride and washed with water, brine and concentrated to dryness. The crude material was purified by flash chromatography (eluting with hexane/ethyl acetate, 80/20 to 10/90) to give chiral 2-hydroxyethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate as a white solid (112.2 mg, 53% yield). MS (ES+) m/z calcd. for C33H34Cl2F2N3O5 [(M+H)+]: 660. found: 660.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | 0.320 mmol, 197 mg | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | triethylamine | 0.959 mmol, 0.14 mL, 97.0 mg | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.447 mmol, 114 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | ethane-1,2-diol | 1.97 mmol, 0.11 mL, 122 mg | C(CO)O | C2H6O2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-hydroxyethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate | 112.2 mg, 53% yield | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)OCCO)C=C1)OC)F | C33H33Cl2F2N3O5
